US08471005B2
7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-ol (100 mg, 0.467 mmol) was dissolved in N,N-dimethylformamide (9.00 mL) at 0° C. and N,N-diisopropylethylamine (244 μL, 1.40 mmol) was added and the reaction was let stir for 30 minutes. N-Phenylbis(trifluoromethanesulphonimide) (184 mg, 0.514 mmol) was added and the reaction was let warm to room temperature. After 100% conversion to the triflate, 4-(1,1-dioxo-1$1(6)-thiomorpholin-4-ylmethyl)-phenylamine (140 mg, 0.584 mmol) was added and the reaction was stirred at room temperature overnight. The reaction mixture was taken up in EtOAc (30 mL) and washed three times with water (20 mL). The organic layer was dried over sodium sulfate, filtered, and concentrated under reduced pressure. Purification by silica gel chromatography using a gradient of 0-100% EtOAc/hex as the eluting solvent to obtain (7-bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[4-(1,1-dioxo-1$1(6)-thiomorpholin-4-ylmethyl)-phenyl]-amine as a yellow foam (134 mg, 66%). LCMS (m/e) 301 (M—N(CH2)4SO2); 1H-NMR (CDCl3, 400 MHz) δ 8.60 (s, 1H), 7.73 (d, 2H, J=8.5 Hz), 7.31 (d, 2H, J=8.5 Hz), 6.92 (s, 1H), 6.81 (d, 1H, J=4.8 Hz), 6.76 (d, 1H, J=4.8 Hz), 3.63 (s, 2H), 3.10-3.03 (m, 4H), 3.03-2.97 (m, 4H).

reactant | 7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-ol | 0.467 mmol, 100 mg | BrC1=CC=C2C=NC(=NN21)O | C6H4BrN3O
reactant | N,N-diisopropylethylamine | 1.40 mmol, 244 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-Phenylbis(trifluoromethanesulphonimide) | 0.514 mmol, 184 mg | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | triflate | [O-]S(=O)(=O)C(F)(F)F
reactant | 4-(1,1-dioxo-1$1(6)-thiomorpholin-4-ylmethyl)-phenylamine | 0.584 mmol, 140 mg | O=S1(CCN(CC1)CC1=CC=C(C=C1)N)=O | C11H16N2O2S
solvent | N,N-dimethylformamide | 9.00 mL | CN(C=O)C | C3H7NO
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | (7-bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[4-(1,1-dioxo-1$1(6)-thiomorpholin-4-ylmethyl)-phenyl]-amine | 134 mg, 66% | BrC1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)CN2CCS(CC2)(=O)=O | C17H18BrN5O2S
